US08754079B2
I.1. 2-(Cyclohex-2-enyloxy)-4-fluoro-1-nitro-benzene
1.89 ml DEAD were added to an ice-cooled solution of the 1.57 g 5-Fluoro-2-nitrophenol, 1.18 ml 2-cyclohexenol and 3.15 g triphenylphosphin in methylene chloride. The reaction mixture was stirred and allowed to warm to rt overnight. The solvent was removed in vacuo. Purification is achieved by silica gel column chromatography with iso-hexane/EtOAc (gradient: 100% i-hexane→10:1 i-hexane/EtOAc).

reactant | DEAD | 1.89 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 5-Fluoro-2-nitrophenol | 1.57 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | 2-cyclohexenol | 1.18 ml | C1(C=CCCC1)O | C6H10O
reactant | triphenylphosphin | 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(Cyclohex-2-enyloxy)-4-fluoro-1-nitro-benzene | C1(C=CCCC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H12FNO3
